US06440965B1
A solution of 5-benzyl-2,4-dichloropyrimidine (9.66 g, 38 mmoles), triethylamine (Aldrich) (4.15 g, 41 mmoles), and ethanol (20 mL) was stirred at ice bath temperature for 10 minutes. 1-Methylpiperazine (Aldrich) (3.83 g, 38 mmoles) in ethanol (10 mL) was added, and the reaction was stirred at ambient temperature for 16 hours. The solution was spin evaporated in vacuo at 40° C. to give a residue that was partitioned between dichloromethane (50 mL) and water (70 mL). The dichloromethane phase was separated and washed with water (2×7 mL), and finally with brine (50 mL). The dichloromethane solution was dried over sodium sulfate, filtered and applied to a column (4×20 cm) of Silica Gel 60 (230-400 mesh) that was equilibrated with dichloromethane. The column was eluted with dichloromethane (400 mL) by flash chromatography to remove impurities. The product was eluted with 2% methanol-dichloromethane, and the combined fractions were spin evaporated in vacuo to give 9.89 g (cc % yield) of 2-chloro-5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine.

reactant | 5-benzyl-2,4-dichloropyrimidine | 38 mmoles, 9.66 g | C(C1=CC=CC=C1)C=1C(=NC(=NC1)Cl)Cl | C11H8Cl2N2
reactant | triethylamine | 41 mmoles, 4.15 g | C(C)N(CC)CC | C6H15N
reactant | 1-Methylpiperazine | 38 mmoles, 3.83 g | CN1CCNCC1 | C5H12N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-chloro-5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine | 9.89 g | ClC1=NC=C(C(=N1)N1CCN(CC1)C)CC1=CC=C(C=C1)C | C17H21ClN4
